US04409215
To a suspension of tert-butyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate tosylate (13.1 g) in methylene chloride (200 ml) was added water (100 ml), followed by adjusting to pH about 6 with an aqueous solution of sodium bicarbonate. After separating out the methylene chloride layer, the remaining aqueous solution was extracted with methylene chloride (50 ml). The combined methylene chloride solution was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then treated with an activated charcoal, followed by evaporation under reduced pressure to give tert-butyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate (5.7 g).

reactant | tert-butyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate tosylate | 13.1 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C)(C)C)C1=O
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate | 5.7 g | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C)(C)C)C1=O | C13H20N2O4S
